US07629344B2
(Protocol A—the HBTU coupling procedure) A solution of [3-(1H-imidazol-2-yl)-pyrazolo[3,4-b]pyridin-1-yl]acetic acid (0.30 M, 0.40 mL, 0.12 mmol) was transferred to a vial. 1-(4-Chloro-5-ethoxy-2-fluorophenyl)piperazine dihydrochloride (48 mg, 0.14 mmol), O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate (HBTU) (55 mg, 0.14 mmol) and i-Pr2NEt (0.30 mL) were added to the vial and the mixture was stirred at ambient temperature. After 30 minutes, LC/MS analysis indicated formation of desired product and complete consumption of the carboxylic acid starting material. The mixture was diluted with EtOAc, washed with water (1×) and brine (1×), dried over Na2SO4 and evaporated. The residue was purified by silica gel chromatography (1% to 8% MeOH in CH2Cl2) to provide 1-[4-(4-chloro-5-ethoxy-2-fluorophenyl)piperazin-1-yl]-2-[3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]ethanone as a tan solid: 1H NMR (CDCl3, 400 MHz) 8.79 (dd, 0.6H, J=8.4, 1.6 Hz), 8.66 (dd, 0.4H, J=8.0, 1.6 Hz), 8.57-8.55 (m, 1H), 7.29-7.26 (m, 1H), 7.22-7.16 (m, 1H), 7.09-7.05 (m, 2H), 6.50-6.45 (m, 2H), 5.45 (s, 0.6H), 5.43 (s, 1.4H), 4.07-4.01 (m, 2H), 3.81-3.69 (m, 4H), 3.17-3.13 (m, 1.6H), 3.08-3.02 (m, 2.4H), 1.50-1.42 (m, 3H); LC/MS m/z (M+H)+ 484.4.

reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | [3-(1H-imidazol-2-yl)-pyrazolo[3,4-b]pyridin-1-yl]acetic acid | 0.12 mmol, 0.30 M, 0.40 mL | N1C(=NC=C1)C1=NN(C2=NC=CC=C21)CC(=O)O | C11H9N5O2
reactant | 1-(4-Chloro-5-ethoxy-2-fluorophenyl)piperazine dihydrochloride | 0.14 mmol, 48 mg | Cl.Cl.ClC1=CC(=C(C=C1OCC)N1CCNCC1)F
reactant | O-(benzotriazol-1-yl)-N,N,N′,N′-tetramethyluronium hexafluorophosphate | 0.14 mmol, 55 mg | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)OC(=[N+](C)C)N(C)C
reactant | i-Pr2NEt | 0.30 mL | CCN(C(C)C)C(C)C | C8H19N
product | 1-[4-(4-chloro-5-ethoxy-2-fluorophenyl)piperazin-1-yl]-2-[3-(1H-imidazol-2-yl)pyrazolo[3,4-b]pyridin-1-yl]ethanone | ClC1=CC(=C(C=C1OCC)N1CCN(CC1)C(CN1N=C(C=2C1=NC=CC2)C=2NC=CN2)=O)F | C23H23ClFN7O2
